US09120822B2
Bromine (160 μL, 3.12 mmol, 1.0 eq) is added at 10° C. to a stirred solution of (trans-4-acetyl-cyclohexyl)-carbamic acid benzyl ester (850 mg, 3.12 mmol, 1.0 eq) in methanol (30 mL). After 4 hours stirring at 10° C., the reaction mixture is diluted with petroleum ether (15 mL) and the resulting precipitate is collected by filtration to afford [trans-4-(2-bromo-acetyl)-cyclohexyl]-carbamic acid benzyl ester as a white solid (920 mg, 83% yield).

reactant | Bromine | 3.12 mmol, 160 μL, 1.0 eq | BrBr | Br2
reactant | (trans-4-acetyl-cyclohexyl)-carbamic acid benzyl ester | 3.12 mmol, 850 mg, 1.0 eq | C(C1=CC=CC=C1)OC(N[C@@H]1CC[C@H](CC1)C(C)=O)=O | C16H21NO3
solvent | methanol | 30 mL | CO | CH4O
product | [trans-4-(2-bromo-acetyl)-cyclohexyl]-carbamic acid benzyl ester | 920 mg, 83% yield | C(C1=CC=CC=C1)OC(N[C@@H]1CC[C@H](CC1)C(CBr)=O)=O | C16H20BrNO3
